US07612114B2
6-{2-{Ethyl{2-[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine and [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]acetic acid hydrochloride according to an analogous synthetic method to Example 337 described below, ethyl{2-[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]ethyl}[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine (302 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (233 mg).

reactant | ethyl[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | C(C)NC1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC | C19H23NO
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]acetic acid hydrochloride | Cl.FC=1C=C(C=CC1OCCN1CCCCC1)CC(=O)O
reactant | ethyl{2-[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]ethyl}[2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 302 mg | C(C)N(C1=C(C=CC=C1)C1CC2=CC=C(C=C2CC1)OC)CCC1=CC(=C(C=C1)OCCN1CCCCC1)F | C34H43FN2O2
product | 6-{2-{Ethyl{2-[3-fluoro-4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 233 mg | C(C)N(C1=C(C=CC=C1)C1CC=2C=CC(=CC2CC1)O)CCC1=CC(=C(C=C1)OCCN1CCCCC1)F | C33H41FN2O2
